US07732435B2
7-(4-Chlorophenyl)-8-isopropyl-3H-9-oxa-1,2,3-triaza-cyclopenta[a]naphthalen-6-one (and tautomer)
A stirred mixture of 7,8-diamino-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one (115 mg, 0.35 mmol) and 5% aqueous acetic acid (5 ml) is cooled to 0° C., and sodium nitrite (26 mg, 0.38 mmol) is added portionwise. The mixture is stirred for 18 h as it is allowed to warm to room temperature. The reaction is quenched with saturated aqueous sodium bicarbonate (50 ml), and the mixture is extracted with ethyl acetate (3×50 ml). The organic phases are combined, washed with saturated aqueous sodium bicarbonate (50 ml) and then with saturated brine (50 ml), dried (MgSO4), filtered and evaporated under reduced pressure. The residue is purified by chromatography on silica gel using n-hexane/ethyl acetate (0-100% ethyl acetate) as eluant to give the product as a colourless solid.

reactant | 7,8-diamino-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one | 0.35 mmol, 115 mg | NC1=CC=C2C(C(=C(OC2=C1N)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H17ClN2O2
reactant | sodium nitrite | 0.38 mmol, 26 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 7-(4-Chlorophenyl)-8-isopropyl-3H-9-oxa-1,2,3-triaza-cyclopenta[a]naphthalen-6-one | ClC1=CC=C(C=C1)C=1C(C2=CC=C3C(=C2OC1C(C)C)N=NN3)=O | C18H14ClN3O2
